US05904148
In a fashion similar to that described in Example 1, α-hexyl-cinnamaidehyde was treated with zinc and acetic acid to provide 2,5-dihexyl-1,6-diphenyl-1,5-hexadiene-3,4-diol.

reactant | α-hexyl-cinnamaidehyde | C(CCCCC)C(C=O)=CC1=CC=CC=C1 | C15H20O
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,5-dihexyl-1,6-diphenyl-1,5-hexadiene-3,4-diol | C(CCCCC)C(=CC1=CC=CC=C1)C(C(C(=CC1=CC=CC=C1)CCCCCC)O)O | C30H42O2
